US05753657
1.3 g of 10-hexylidene-5H,10H-imidazo[1,2-a]-indeno[1,2-e]pyrazin-4-one are hydrogenated at a temperature in the region of 20° C. and at a pressure of 9.4 bar of hydrogen in the presence of 120 ml of dimethylformamide, 20 ml of methanol and 0.3 g of 10% palladium on charcoal for 17 hours. After filtration of the catalyst under inert atmosphere, the solvents are evaporated off and the crude product (1.2 g) is purified by chromatography on a column of silica (120 g partially deactivated with 2 ml of water), eluting with a mixture of dichloromethane and methanol (90/10 by volume). 0.47 g of 10-hexyl-5H,10H-imidazo[1,2-a]-indeno[1,2-e]pyrazin-4-one is thus obtained, in the form of a beige solid melting at about 185° C. (Analysis % calculated C: 74.24, H: 6.89, N: 13.67, O: 5.20, % found C: 74.3, H: 7.0, N: 13.6).

reactant | 10-hexylidene-5H,10H-imidazo[1,2-a]-indeno[1,2-e]pyrazin-4-one | 1.3 g | C(CCCCC)=C1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C19H19N3O
reactant | hydrogen | [H][H] | H2
reactant | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
catalyst | palladium on charcoal | 0.3 g | [Pd] | Pd
solvent | methanol | 20 ml | CO | CH4O
product | 10-hexyl-5H,10H-imidazo[1,2-a]-indeno[1,2-e]pyrazin-4-one | 0.47 g | C(CCCCC)C1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C19H21N3O
